* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 23.2
R1 n1 a 1
R2 a nc 2
V2 nc nd DC 29
R3 nd ne 4
V3 b ne DC 17.2
V4 nf b DC 8.1
R4 nf 0 4
.op
.print dc V(a) V(b)
.end